US07049011B2
A run was carried out as in Example 1 aside from using 9-biphenyl-2-yl-10-bromoanthracene and 3-vinylphenylboronic acid. There was obtained 9-biphenyl-2-yl-10-(3-vinylphenyl)anthracene in a yield of 63%. From this monomer, a polymer was prepared in a yield of 78% and had a weight average molecular weight of 21,000. An organic EL device was fabricated as in Example 1. This device produced blue light emission from tetraphenylbutadiene and showed a current efficiency of 4.0 cd/A upon constant current driving at 10 mA/cm2. The luminance half-life at 10 mA/cm2 was 580 hours.

reactant | 9-biphenyl-2-yl-10-bromoanthracene | C1(=C(C=CC=C1)C=1C2=CC=CC=C2C(=C2C=CC=CC12)Br)C1=CC=CC=C1 | C26H17Br
reactant | 3-vinylphenylboronic acid | C(=C)C=1C=C(C=CC1)B(O)O | C8H9BO2
product | 9-biphenyl-2-yl-10-(3-vinylphenyl)anthracene | yield of 63% | C1(=C(C=CC=C1)C=1C2=CC=CC=C2C(=C2C=CC=CC12)C1=CC(=CC=C1)C=C)C1=CC=CC=C1 | C34H24
